### PR TITLE
[ add ] Module `⊆-Reasoning` for `Data.List.Relation.Binary.Sublist.*`

### LINKED ISSUE #2526: Add `⊆-Reasoning` module/combinators for `Data.List.Relation.Binary.Sublist.*`
See #2524 .

### PR DESCRIPTION
**Pull request by jamesmckinna**
Fixes #2526 

DRAFT until the following are sorted out:
- [x] `Propositional` instantiation UPDATED: I think this does 'just' work by import from `Setoid` for the propositional equality `setoid`...?
- [x] Refactor `Setoid` instantiation to delegate appropriately to `Heterogeneous`, but I can't quite figure out whether the relevant `Preorder` bundles match up (difference between `Relation.Binary.Properties.Setoid.≈-isPreorder` and `Relation.Binary.Properties.Setoid.isPreorder` ... hidden under `Data.List.Relation.Binary.Equality.Setoid` via `Pointwise`?)

Issues:
* A second set of eyes would be helpful re the second point above! (and even the first!?)
* Each implementation relies on an import of each of:
  - `Relation.Binary.Reasoning.Preorder`
  - `Relation.Binary.Reasoning.Syntax`

  Is there ever a reason not to have one without the other? (ie. should the specialised `Relation.Binary.Reasoning.Preorder` reexport the `syntax` directly?)

### CODE REVIEW

**Review by JacquesCarette — COMMENTED** [review]
The code as is seems fine to me - so I'm not quite understanding what 'failure' the second point is about?

I'm pretty sure one can use `Relation.Binary.Reasoning.Preorder` without the `Syntax` part, if one is doing locally as opposed to building up externally-visible combinators.

**Comment by jamesmckinna** [comment]
Second things first:
> I'm pretty sure one can use `Relation.Binary.Reasoning.Preorder` without the `Syntax` part, if one is doing locally as opposed to building up externally-visible combinators.

Fine. Happy to leave things as they are. My comment stems from the sense that the `Relation.Binary.Reasoning.Base.*` modules already handles the '`syntax`-free' versions, and now that `Preorder` etc. introduced standardised syntax for the various relations via `renaming` directives`, whether it made sense to *also* standardise on the corresponding `syntax` definitions for the generic `Reasoning` combinators, as part of that specialisation...

**Comment by jamesmckinna** [comment]
First thing second:
> The code as is seems fine to me - so I'm not quite understanding what 'failure' the second point is about?

As I glimpse/see/understand it, there is a potential  [ DRY ] opportunity to share the behaviour between `Data.List.Relation.Binary.Sublist.Heterogeneous` and `...Setoid` by instantiating `{R = _≈_}` in the former to obtain the latter. But I wasn't sure whether that was actually correct, because there seems to be an impedance mismatch between the two (distinct?) proofs of `⊆-reflexive` in play... and I had been wondering if there was a 'least common generalisation' available as a solution to the DRY 'problem'... but I couldn't see it.

**Comment by JacquesCarette** [comment]
Ahh, now I see it (the problem, that is). I'll try to circle back to this before I get swamped with term things.

**Comment by jamesmckinna** [comment]
While fixing the `CHANGELOG` merge conflict, I couldn't help noticing how broken (wrt alphabetical entries) that has become: fix in separate PR, or at release time?

**Comment by JacquesCarette** [comment]
> While fixing the `CHANGELOG` merge conflict, I couldn't help noticing how broken (wrt alphabetical entries) that has become: fix in separate PR, or at release time?

Open a separate issue for that? I would think a separate PR - we don't want to push too many things to 'release time' otherwise it makes putting out a release too much work.

**Review by JacquesCarette — APPROVED** [review]

**Comment by JacquesCarette** [comment]
About DRY: as far as I can see, it's more than just instantiating the relation, a lot of the 'related' properties in the two files also differ in their uses of which equivalence relation is at play (`Sublist` vs containment). So that too would have to be factored out first - which would be quite a lot of work.

If anything's going to be done about this, it is for sure a non-trivial v3.0 job.

**Comment by jamesmckinna** [comment]
Thanks @JacquesCarette .

I'd be happy to leave things as they are, with distinct `Reasoning` modules for each of `Heterogeneous` and `Setoid` sublists, and postpone downstream further consideration of how we might unify these designs.

**Comment by JacquesCarette** [comment]
Were you just thinking about the reasoning modules? I was looking at the whole file.

**Comment by jamesmckinna** [comment]
> Were you just thinking about the reasoning modules? I was looking at the whole file.

Ah!? 

Because the PR at hand is *only* concerned with adding the new `⊆-Reasoning` modules to `Sublist`, I was trying my utmost *not* to think about, or touch, anything else ;-) But might that mean you *do* know how to (diagnose and) fix the issue at the top relating the two kinds of `Sublist` reasoning?

**Comment by JacquesCarette** [comment]
Hmm, why doesn't
```agda
module ⊆-Reasoning where

  open HeteroProperties.⊆-Reasoning ⊆-preorder public
```
work?  My tests make it feel like that accomplishes the same.  Pushed to your branch.

**Comment by jamesmckinna** [comment]
> ```agda
> HeteroProperties.⊆-Reasoning ⊆-preorder
> ```

Interesting! Thanks for the prompt to play around a bit more myself... and I think I disagree with you. 

The `HeteroProperties.⊆-Reasoning` module takes a `Preorder` bundle *on the carrier of `R`*, and gives `Preorder` reasoning combinators for `Sublist R`. So `HeteroProperties.⊆-Reasoning ⊆-preorder` is going to yield `Preorder` reasoning for `Sublist _⊆_`, rather than `Sublist _≈_`.

But this did prompt me to investigate whether `Sublist.Setoid.⊆-preorder` is the same as `Hetero.preorder` instantiated at the (canonical!) `Preorder` based on `_≈_`... and it is, thankfully. Commit incoming.

**Comment by jamesmckinna** [comment]
Got my commits slightly out of order just now, but have now also refactored the proof of the lemma introduced in #2524 to use the new `⊆-Reasoning` module... but there are clearly still some UX aspects to iron out: the combinators for `_≋⟨_⟩_` steps don't seem to work quite right
* need for explicit appeal to `≋-reflexive`
* need for explicit appeal to `sym`

**Comment by JacquesCarette** [comment]
Oops - thanks for spotting that. Subtle.

The other parts might be related to the `Reasoning` module not exporting enough?

**Comment by JacquesCarette** [comment]
The reason you can't do those steps is because in `Data.List.Relation.Binary.Sublist.Heterogeneous.Properties` those are explicitly hidden!!!
```agda
  open ≲-Reasoning (preorder ≲) public
    hiding (step-≈; step-≈˘; step-≈-⟩; step-≈-⟨; step-≲; step-∼)
    renaming (≲-go to ⊆-go; ≈-go to ≋-go)
```

After revealing that, then at least the proof could be simplified to
```agda
  xs∈xss⇒xs⊆concat[xss] {xs = xs} {xss = xss} xs∈xss = begin
    xs ≈⟨ ≋-reflexive (++-identityʳ xs) ⟨
    xs ++ [] ⊆⟨ concat⁺ (map-≋ ⊆-reflexive (from∈-≋ xs∈xss)) ⟩
    concat xss ∎
    where open ⊆-Reasoning
```

Then I tried the ≋ step. That gave very weird errors until I figured out that that particular module takes *4* arguments and not merely the 3 that it was given! Once I managed to fix that, the combinators worked, but I wasn't able to use them to simplify things.

My 'improvements' pushed.

**Comment by jamesmckinna** [comment]
> The reason you can't do those steps is because in `Data.List.Relation.Binary.Sublist.Heterogeneous.Properties` those are explicitly hidden!!!
> 
> ```agda
>   open ≲-Reasoning (preorder ≲) public
>     hiding (step-≈; step-≈˘; step-≈-⟩; step-≈-⟨; step-≲; step-∼)
>     renaming (≲-go to ⊆-go; ≈-go to ≋-go)
> ```

See previous about being tired/making mistakes! I had been too quick to emulate the code for `Subset` without thinking through the consequences!

Thanks for pushing the changes, and paying more attention than I could manage to the structure of reasoning modules... ;-)

File: src/Data/List/Relation/Binary/Sublist/Heterogeneous/Properties.agda [hunk 1]
```diff
@@ -470,6 +472,18 @@ decPoset ER-poset = record
...
+-- Reasoning over sublists
+------------------------------------------------------------------------
+
+module ⊆-Reasoning (≲ : Preorder a e r) where
+
+  open ≲-Reasoning (preorder ≲) public
+    renaming (≲-go to ⊆-go; ≈-go to ≋-go)
+
+  open ⊆-syntax _IsRelatedTo_ _IsRelatedTo_ ⊆-go public
+  open ≋-syntax _IsRelatedTo_ _IsRelatedTo_ ≋-go (Pw.symmetric (Preorder.Eq.sym ≲)) public
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Binary/Sublist/Heterogeneous/Properties.agda:485]: There may be a nicer way of supplying these arguments by judicious `open`ing of the module parameter `≲`, but that's moot I think?

File: src/Data/List/Relation/Binary/Sublist/Setoid/Properties.agda [hunk 2]
```diff
@@ -196,9 +206,11 @@ module _ where
     renaming (map to map-≋; from∈ to from∈-≋)
 
   xs∈xss⇒xs⊆concat[xss] : xs ∈ xss → xs ⊆ concat xss
-  xs∈xss⇒xs⊆concat[xss] {xs = xs} xs∈xss
-    = ⊆-trans (⊆-reflexive (≋-reflexive (sym (++-identityʳ xs))))
-              (concat⁺ (map-≋ ⊆-reflexive (from∈-≋ xs∈xss)))
+  xs∈xss⇒xs⊆concat[xss] {xs = xs} {xss = xss} xs∈xss = begin
+    xs ≈⟨ ≋-reflexive (++-identityʳ xs) ⟨
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Binary/Sublist/Setoid/Properties.agda:210]: Nice!

**Comment by JacquesCarette** [comment]
> Thanks for pushing the changes, and paying more attention than I could manage to the structure of reasoning modules... ;-)

This wasn't "paying more attention", which would have been the case if I were writing the code. This was sleuthing, because I was in 'debugging mode'. Something that I rather enjoy (and, sadly, it seems few programmers like this kind of investigation).

File: src/Data/List/Relation/Binary/Sublist/Heterogeneous/Properties.agda (hunk 1 above)
Comment (JacquesCarette) [reply src/Data/List/Relation/Binary/Sublist/Heterogeneous/Properties.agda:485]: I agree that my code is ugly. It is moot for the purposes of fixing up the one proof we used as a test case, but not moot for anyone wishing to use those combinators! In that case, all arguments really should be provided.

**Comment by jamesmckinna** [comment]
Hopefully that's now tidied things up enough after the merge conflict resolution and @JacquesCarette 's improvements.
Too cheeky to now ask @MatthewDaggitt to add this to the v2.2 milestone before v2.2-rc1?

**Review by JacquesCarette — APPROVED** [review]
